US06599902B2
KOH (5 g, 2 eq) was added to a suspension of 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (8.13 g, 44.8 mmol) in water (100 mL) and EtOH (50 mL) with stirring. The mixture was heated to reflux for 2.5 hr, cooled to rt, concentrated to about ⅔ volume, diluted with water (300 mL) and acidified to pH=3 using 1N HCl. The white solid was collected by filtration and dried to afford 6 g (87%) of 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid as a tan solid.

reactant | KOH | 5 g, 2 eq | [OH-].[K+]
reactant | 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 44.8 mmol, 8.13 g | C(C)OC(=O)C1=CNC(=C1C)C=O | C9H11NO3
solvent | water | 100 mL | O | H2O
solvent | EtOH | 50 mL | CCO | C2H6O
product | 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid | 6 g, 87% | C(=O)C1=C(C(=CN1)C(=O)O)C | C7H7NO3
